US04203988
To 32.8 g (0.2 m) N-(4,6-dimethyl-2-pyridyl)acetamide dissolved in 300 ml dimethylformamide, sodium hydride (50%) (9.67 g 0.21 m) is added at 30°-40° in three portions with stirring. Ten minutes after this addition diethylaminoethylchloride hydrochloride (37.2 g, 0.216 m) is added and the mixture stirred 20 minutes. Sodium hydride (50%) (10.55 g, 0.229 M) is added in three portions at 40°-45°, the mixture stirred at 50°-55° for 1/2 hour and finally at 90° for 21/2 hours. On cooling ethanol, 50 ml. followed by acetic acid, 25 ml, are added. The mixture is concentrated under vacuum, the residue dissolved in dilute hydrochloric acid, and extracted with hexane. The aqueous is made alkaline with sodium hydroxide, 10 N and extracted with methylene chloride. The organic extracts are washed with water, concentrated and the residue distilled. The fraction distilling at 127°-140°/1.3 mm, weight 35.5 g is collected, hydrolyzed by refluxing in sulfuric acid (85 ml), water (80 ml) and acetic acid (170 ml) for 18 hours. The mixture is cooled in an ice bath and sodium hydroxide solution equivalent to the sulfuric acid is added. Ethanol is added and the salts filtered off. The filtrate is concentrated under vacuum and the residue taken up in dilute sodium hydroxide. The mixture is extracted with methylene chloride, the organic extracts washed with brine, dried over sodium sulfate and concentrated to obtain the 2-(2-diethylaminoethylamino)-4,6-dimethylpyridine as an oil, weight 30 g.

reactant | N-(4,6-dimethyl-2-pyridyl)acetamide | 32.8 g | CC1=CC(=NC(=C1)C)NC(C)=O | C9H12N2O
reactant | sodium hydride | 9.67 g | [H-].[Na+]
reactant | diethylaminoethylchloride hydrochloride | 37.2 g | Cl.C(C)N(CC)CCCl
reactant | Sodium hydride | 0.229 M, 10.55 g | [H-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-diethylaminoethylamino)-4,6-dimethylpyridine | C(C)N(CCNC1=NC(=CC(=C1)C)C)CC | C13H23N3
